US07947308B2
Preparation of Doxorubicin Nanoparticles
100 μl of n-butylcyanoacrylate monomer was added to 1% dextran solution in 8 mL of 0.01 M HCl under constant stirring at 600 rpm. Doxorubicin hydrochloride powder 50 mg was dissolved in 2 mL of distilled water and after 40 minutes the solution was added to the reaction flask. After 4 hours the pH of the nanoparticle suspension was adjusted at 7 and filtered through 0.8 μm membrane filter (Nuclepore Track-Etch membrane, Whatman, USA). The doxorubicin-loaded nanoparticle suspension was kept in a refrigerator at 4° C.

reactant | n-butylcyanoacrylate | 100 μl | C(CCC)C=C(C(=O)[O-])C#N
reactant | Doxorubicin hydrochloride | 50 mg | C[C@H]1[C@H]([C@H](C[C@@H](O1)O[C@H]2C[C@@](CC=3C2=C(C4=C(C3O)C(=O)C5=CC=CC(=C5C4=O)OC)O)(C(=O)CO)O)N)O.Cl
solvent | HCl | 0.01 M, 8 mL | Cl | ClH
solvent | water | 2 mL | O | H2O
product | Doxorubicin | C[C@H]1[C@H]([C@H](C[C@@H](O1)O[C@H]2C[C@@](CC=3C2=C(C4=C(C3O)C(=O)C5=CC=CC(=C5C4=O)OC)O)(C(=O)CO)O)N)O | C27H29NO11
